US07723378B2
A solution of 5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methoxy-methyl-amide (14 g, 44 mmol) in diethyl ether (400 mL) is treated at rt with methyl lithium (80 mL, 1.6 M in diethyl ether). Upon complete addition, the mixture is stirred at rt for 15 min before it is poured onto water/ice and neutralized with aq. HCl. The ether phase is separated and the aq. phase is extracted two more times with diethyl ether (2×100 mL). The organic extracts are washed with brine, dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with heptane containing 20-30% of DCM to give 1-(5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (9.1 g) as a yellow oil; LC-MS: tR=1.11 min, [M+1+CH3CN]=318.34; 1H NMR(CDCl3): δ 3.04 (t, J=7.0 Hz, 2H), 2.57 (d, J=1.2 Hz, 2H), 2.53 (s, 3H), 1.58 (t, J=7.0 Hz, 2H), 0.99 (s, 6H).

reactant | 5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methoxy-methyl-amide | 44 mmol, 14 g | CON(C(=O)C=1SC(=C2C1CCC(C2)(C)C)C(F)(F)F)C | C14H18F3NO2S
reactant | methyl lithium | 1.6 M, 80 mL | C[Li]
reactant | HCl | Cl | ClH
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 1-(5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 9.1 g | CC1(CC=2C(=C(SC2C(F)(F)F)C(C)=O)CC1)C | C13H15F3OS
